US07476666B2
Step 1: Methyl 4-benzyloxy-3-carboxy-1H-pyrazole-5-carboxylate
Dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate (25 g, 86 mmol) was dissolved in N,N-dimethylhydrazine (75 mL) and the stirred mixture heated to reflux under nitrogen atmosphere for 30 hours. The solvent was removed in vacuo to give a white solid. The residue was dissolved in water (200 mL), 1N HCl (75 mL), and ethyl acetate (100 mL). The mixture was stirred and warmed to 35° C. until all the solids had dissolved. The layers were then separated and the aqueous layer was extracted with more ethyl acetate (3×100 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure to give the product as a white solid. 1H NMR (400 MHz, d6-DMSO) δ 13.2 (br s, 1H), 7.3-7.45 (m, 5H), 5.09 (s, 2H), 3.81 (s, 3H); ES MS (M+1)=277.

reactant | Dimethyl 4-benzyloxy-1H-pyrazole-3,5-dicarboxylate | 86 mmol, 25 g | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)OC)C(=O)OC | C14H14N2O5
reactant | HCl | 1N, 75 mL | Cl | ClH
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylhydrazine | 75 mL | CN(N)C | C2H8N2
solvent | water | 200 mL | O | H2O
product | Methyl 4-benzyloxy-3-carboxy-1H-pyrazole-5-carboxylate | C(C1=CC=CC=C1)OC=1C(=NNC1C(=O)OC)C(=O)O | C13H12N2O5
